US04752326
(c) Preparation of 2-chloro-4-fluoro-5-aminophenyl methanesulfonate
A suspension of 2-chloro-4-fluoro-5-nitrophenyl methanesulfonate (27.0 g) and iron (33.5 g) in water (140 ml) was heated for reduction of the nitro group into amino group. When the temperature of the reaction mixture reached 80° C., 35% hydrochloric acid (3.2 g) was added thereto. Upon cooling to room temperature, the pH of the reaction mixture was adjusted to 9.0 with the addition of an aqueous sodium hydroxide solution. The reaction mixture was then extracted with toluene and tetrahydrofuran. The organic layer so separated was washed with water, dried over anhydrous sodium sulfate and then distilled under reduced pressure to remove the solvent, affording the titled compound (22.3 g) as a pale yellow oil which was then purified by silica gel chromatography to give colorless crystals with melting point 79°-80° C.

reactant | 2-chloro-4-fluoro-5-nitrophenyl methanesulfonate | 27.0 g | CS(=O)(=O)OC1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl | C7H5ClFNO5S
reactant | hydrochloric acid | 3.2 g | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 140 ml | O | H2O
catalyst | iron | 33.5 g | [Fe] | Fe
product | 2-chloro-4-fluoro-5-aminophenyl methanesulfonate | 22.3 g | CS(=O)(=O)OC1=C(C=C(C(=C1)N)F)Cl | C7H7ClFNO3S
